US04299970
A solution of 3-methyl-1-(N,N-dibenzylamino)-nonan-3-ol (71 g) in ethanol (200 ml) was added to a slurry of 10% Pd/C (8 g) in ethanol. The mixture was hydrogenated at 70° and 200 psi for 3 days. The mixture was filtered through kieselguhr and evaporated. The oily product was fractionally distilled to give 1-amino-3-methyl-nonan-3-ol as a colourless liquid (18.9 g, 55% yield), b.p. 104°-106°/0.2 mm Hg.

reactant | 3-methyl-1-(N,N-dibenzylamino)-nonan-3-ol | 71 g | CC(CCN(CC1=CC=CC=C1)CC1=CC=CC=C1)(CCCCCC)O | C24H35NO
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | Pd/C | 8 g | [Pd] | Pd
product | 1-amino-3-methyl-nonan-3-ol | 18.9 g, 55% yield | NCCC(CCCCCC)(O)C | C10H23NO
